US08242175B2
1-Benzyl-piperazine (40 mg, 0.22 mmol) was added to a stirred mixture of methanesulfonic acid 4-((E)-3-{4-[(E)-2-(tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-phenyl}-acryloyl)-benzyl ester (prepared as described in Preparation 5, 90 mg, 0.185 mmol) and TEA (0.052 ml, 0.37 mmol) in DMF (2 ml). The resulting solution was stirred at room temperature for 1 h. The mixture was diluted with water and extracted with hot AcOEt. The organic phase was washed with water, dried over Na2SO4 and evaporated in vacuo. The crude reaction mixture was triturated with di-isopropylether/DCM, filtered and the resulting powder was suspended in DCM and treated with HCl/Et2O for 1 h. The solid was filtered and washed with DCM to give 28.1 mg of (E)-3-(4-{(E)-3-[4-(4-benzyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide as its bis-hydrochloride salt.

reactant | 1-Benzyl-piperazine | 0.22 mmol, 40 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | methanesulfonic acid 4-((E)-3-{4-[(E)-2-(tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-phenyl}-acryloyl)-benzyl ester | 0.185 mmol, 90 mg | O1C(CCCC1)ONC(=O)/C=C/C1=CC=C(C=C1)/C=C/C(=O)C1=CC=C(COS(=O)(=O)C)C=C1 | C25H27NO7S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-3-(4-{(E)-3-[4-(4-benzyl-piperazin-1-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide | 28.1 mg | C(C1=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NO)=O | C30H31N3O3
